US05019578
2-Isobutyramido-5-ethenylpyridine
A mixture of 9.72 g of 2 isobutyramido-5-bromopyridine, 0.49 g of tris-(0-tolyl)phosphine, 110 mg of palladium acetate, 10 ml of triethylamine and 30 ml of acetonitrile was heated at 80° C. in a glass lined vessel at 200 psi of ethylene for 18 hours. The reaction mixture was concentrated under reduced pressure and the residue chromatographed on el (0-25% ethyl acetate/methylene chloride) to give 6.67 g of pure product, m.p. 77°-8° C.; Analysis: Calc'd for C11H14N2O:

reactant | isobutyramido-5-bromopyridine | C(C(C)C)(=O)NC1=NC=C(C=C1)Br | C9H11BrN2O
reactant | tris-(0-tolyl)phosphine | 0.49 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | ethylene | C=C | C2H4
catalyst | palladium acetate | 110 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-Isobutyramido-5-ethenylpyridine | 6.67 g | C(C(C)C)(=O)NC1=NC=C(C=C1)C=C | C11H14N2O
